US07652032B2
5-[(2,3,4-tri-O-acetyl-5-thio-D-xylopyranosyl)oxy]-1H-indole-1-carboxylic Acid 1,1-dimethylethyl Ester
A solution of 1.75 g (7.51 mM) of 5-hydroxy-1H-indole-1-carboxylic acid tert-butyl ester in 25 ml of THF, 2.73 g (13.5 mM) of diisopropylazodicarboxylate and 3.54 g (13.5 mM) of triphenylphosphine are added to a solution of 2.85 g (9.75 mM) of 2,3,4-tri-O-acetyl-5-thio-D-xylopyranose in 50 ml of THF. The reaction mixture is stirred at 45° C. for 3 hours and then concentrated under reduced pressure. The evaporation residue is dissolved in ethyl acetate and the organic phase is washed with a 1N solution of sodium hydroxide, and then with a concentrated aqueous solution of ammonium chloride. The organic phase is subsequently dried over magnesium sulfate and concentrated under reduced pressure. The evaporation residue is purified by C18-grafted silica chromatography, elution being carried out with an acetonitrile/water mixture (7/3; v/v). The desired product is obtained in the form of a pale yellow solid with a yield of 11%.

reactant | 5-hydroxy-1H-indole-1-carboxylic acid tert-butyl ester | 7.51 mM, 1.75 g | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)O | C13H15NO3
reactant | diisopropylazodicarboxylate | 13.5 mM, 2.73 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | 13.5 mM, 3.54 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2,3,4-tri-O-acetyl-5-thio-D-xylopyranose | 9.75 mM, 2.85 g | C(C)(=O)O[C@H]1C(O)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C11H16O7S
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 5-[(2,3,4-tri-O-acetyl-5-thio-D-xylopyranosyl)oxy]-1H-indole-1-carboxylic Acid 1,1-dimethylethyl Ester | yield of 11% | CC(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)OC1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)CS1 | C24H29NO9S
